US04109000
One gram of 5-(4-hydroxybenzyl)-picolinic acid was suspended in 15 ml. of methanol. Then, hydrogen chloride gas was introduced therein till saturation. After heating under reflux for 5 hours, the reaction mixture was concentrated under reduced pressure. The residue was added with cold water to form crystals. The crystals were then recrystallized from ethyl acetate to obtain 0.85 g of methyl 5-(4-hydroxybenzyl)picolinate as colorless needlelike crystals of a melting point of 184°~186° C.

reactant | 5-(4-hydroxybenzyl)-picolinic acid | One gram | OC1=CC=C(CC=2C=CC(=NC2)C(=O)O)C=C1 | C13H11NO3
reactant | hydrogen chloride | Cl | ClH
reactant | methanol | CO | CH4O
product | methyl 5-(4-hydroxybenzyl)picolinate | 0.85 g | OC1=CC=C(CC=2C=CC(=NC2)C(=O)OC)C=C1 | C14H13NO3
